US05068362
h) (E)-2,3,6,7-tetrahydro-4-methyl-2-(3-methyl-1,3-butadienyl)oxepin
To an ice-cool solution of the diol prepared according to g) (2.0 g, 10.2 mmole) in pyridine (22 ml) was added p-toluenesulfonyl chloride (2.13 g, 11.2 mmole) in small portions and over 30 min. The mixture was stirred at 0° for 30 min and then stored overnight at 3°. The usual extraction with ether and treatment of the organic phase gave 2.85 g of a crude product which, on thin layer chromatographic analysis, showed two components. The further purification of this product by MPLC [LOBAR® column (origin: Merck), mixture of hexane-ethyl acetate as elution agent] gave 2.20 g (yield: 61.6%) of the desired product, i.e. 6-hydroxy-4,9-dimethyl-3,7,9-decatrienyl p-toluenesulfonate, and 220 mg of an unidentified by-product. A suspension of sodium hydride (ca. 80%, 630 mg, ca. 21 mmole; previously washed with anhydrous pentane) in monoglyme (30 ml, freshly distilled from LiAlH4) was prepared under argon and cooled to 0°. 900 μl (7.48 mmole) of DMPU (N,N'-dimethyl-N,N'-propylen urea) were added to the suspension and, afterwards, dropwise, a solution of the abovementioned p-toluenesulfonate (2.20 g, 6.28 mmole) in monoglyme (30 ml). The mixture was allowed to warm to room temperature and was stirred overnight. It was then extracted with ether and the organic phase was washed to neutrality, dried and concentrated as usual. 1.14 g of the crude oxepin were thus obtained. This product was further purified by MPLC [LOBAR® column (origin: Merck), 95:5 mixture of hexane-ether as elution agent] and then by bulb-to-bulb distillation. 450 mg of pure (E)-2,3,6,7-tetrahydro-4-methyl-2-(3-methyl-1,3-butadienyl) oxepin were obtained.

reactant | p-toluenesulfonyl chloride | 11.2 mmole, 2.13 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 6-hydroxy-4,9-dimethyl-3,7,9-decatrienyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCCC=C(CC(C=CC(=C)C)O)C)C | C19H26O4S
solvent | pyridine | 22 ml | N1=CC=CC=C1 | C5H5N
product | (E)-2,3,6,7-tetrahydro-4-methyl-2-(3-methyl-1,3-butadienyl)oxepin | 2.20 g, yield: 61.6% | C/C=1/CC(OCC/C1)C=CC(=C)C | C12H18O
